US04061854
A mixture of 11-cyano-9,10-dihydro-9,10-ethanoanthracene (4.6 g), ethylenediamine (1.5 g) and hydrogen sulfide (about 100 mg) is stirred at 130° C for 20 hours. The reaction mixture is mixed with water and ether to be distributed in two layers. The ether layer is washed with water, dried, and evaporated to remove the ether. The residue is recrystallized from ether to give 11-(2-imidazolin-2-yl)-9,10-dihydro-9,10-ethanoanthracene (5.0 g) as crude crystals. IR (KBr), 1621 cm-1 (N--C=N).

reactant | 11-cyano-9,10-dihydro-9,10-ethanoanthracene | 4.6 g | C(#N)C1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H13N
reactant | ethylenediamine | 1.5 g | C(CN)N | C2H8N2
reactant | hydrogen sulfide | about 100 mg | S | H2S
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 11-(2-imidazolin-2-yl)-9,10-dihydro-9,10-ethanoanthracene | 5.0 g | N1C(=NCC1)C1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C19H18N2
